US04377695
8-[2-Oxo-3-(3-trifluoromethylbenzyl)-benzimidazolin-1-yl]-caprylic acid
The product is produced as described in example 22 from 5.7 g. of 8-[2-oxo-3-(3-trifluoromethylbenzyl)-benzimidazolin-1-yl]-caprylic acid methyl ester and 1.5 g. of NaOH.

reactant | 8-[2-oxo-3-(3-trifluoromethylbenzyl)-benzimidazolin-1-yl]-caprylic acid methyl ester | COC(CCCCCCCN1C(N(C2=C1C=CC=C2)CC2=CC(=CC=C2)C(F)(F)F)=O)=O | C24H27F3N2O3
reactant | NaOH | [OH-].[Na+]
product | 8-[2-Oxo-3-(3-trifluoromethylbenzyl)-benzimidazolin-1-yl]-caprylic acid | O=C1N(C2=C(N1CCCCCCCC(=O)O)C=CC=C2)CC2=CC(=CC=C2)C(F)(F)F | C23H25F3N2O3
